US07790770B2
At −15° C. to a solution of 2,2-bis(3-(trifluoromethoxy)phenyl)acetic acid prepared as described in Procedure 73 (607 mg, 1.6 mmol) in THF (6 mL) was added nBuLi (1.6 mL, 2M in hexane, 3.2 mmol). The mixture was stirred at −15° C. for 45 min. 2-(Bromomethyl)pyrimidine (412 mg, crude) in THF (1 mL) was added and the reaction mixture was allowed to warm to rt and stirred for 18 h, then quenched with saturated NH4Cl. The aqueous layer was extracted with EtOAc (3×50 mL). The combined organic layer was dried over MgSO4, filtered and concentrated to give 3-(pyrimidin-2-yl)-2,2-bis(3-(trifluoromethoxy)phenyl)propanoic acid as a yellow solid (437 mg, 58% crude). This crude solid was carried onto the next step without further purification.

reactant | 2,2-bis(3-(trifluoromethoxy)phenyl)acetic acid | FC(OC=1C=C(C=CC1)C(C(=O)O)C1=CC(=CC=C1)OC(F)(F)F)(F)F | C16H10F6O4
reactant | nBuLi | 3.2 mmol, 2M, 1.6 mL | [Li]CCCC
reactant | 2-(Bromomethyl)pyrimidine | 412 mg | BrCC1=NC=CC=N1 | C5H5BrN2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-(pyrimidin-2-yl)-2,2-bis(3-(trifluoromethoxy)phenyl)propanoic acid | N1=C(N=CC=C1)CC(C(=O)O)(C1=CC(=CC=C1)OC(F)(F)F)C1=CC(=CC=C1)OC(F)(F)F | C21H14F6N2O4
